spice
* SPICE netlist
* NPN Transistors
? Missing component
Q2 5 7 2 NPN
* Current Source
I1 3 4 DC 1mA
* Diodes
D1 3 6 Dmodel
D2 6 7 Dmodel
* Resistor
RL 5 0 1k
* Voltage Sources
VCC 3 0 DC 15V
VEE 2 0 DC -15V
.model Dmodel D
* End of netlist
